US03959309
3-(Dimethylamino)-8-carboxy-1,2,3,4-tetrahydrocarbazole
A solution of 14.1 g. of 4-dimethylaminocyclohexanone and 18.9 g. of 2-carboxyphenylhydrazine hydrochloride in 150 ml. of absolute ethyl alcohol was heated under reflux for 6 hours, cooled, and the resulting crystalline 4-dimethylaminocyclohexanone 2-carboxyphenylhydrazone hydrochloride was collected by filtration, washed with isopropyl alcohol and ether, suspended in 200 ml. of 2% hydrogen chloride in acetic acid and heated at reflux for eight hours. The mixture was cooled and the solids were collected by filtraton, washed with isopropyl alcohol and dissolved in 400 ml. of water. The aqueous solution was treated with alkali until neutral and allowed to stand for two hours. The resulting crystals were filtered to give, on recrystallization from water, 30.3 g. of 3-(dimethylamino)-8-carboxy-1,2,3,4-tetrahydrocarbazole hydrate, m.p. > 300°C. (dec.)

reactant | 4-dimethylaminocyclohexanone | CN(C1CCC(CC1)=O)C | C8H15NO
reactant | 2-carboxyphenylhydrazine hydrochloride | Cl.C(=O)(O)C1=C(C=CC=C1)NN
reactant | 3-(dimethylamino)-8-carboxy-1,2,3,4-tetrahydrocarbazole hydrate | O.CN(C1CCC=2NC3=C(C=CC=C3C2C1)C(=O)O)C
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(Dimethylamino)-8-carboxy-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=C(C=CC=C3C2C1)C(=O)O)C | C15H18N2O2
